US07648989B2
Preparation of (2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetic acid ethyl ester
Dimethylamine (5.6 M solution in EtOH, 4.2 ml, 23.20 mmol) is added under an atmosphere of argon to a solution of (2-Chloro-7-formyl-naphthalen-1-yl)-acetic acid ethyl ester (4.28 g, 15.46 mmol) in THF (80 ml). The mixture is stirred at RT for 18 h, before a solution of sodium cyanoborohydride (1.16 g, 18.56 mmol) in MeOH (20 ml) and glacial acetic acid (4.4 ml, 77.33 mmol) are added. After stirring at RT for 2 h, TLC analysis indicates complete consumption of starting material. The reaction mixture is diluted with water and adjusted to pH 8-9 by the addition of conc. aq. NaHCO3 solution. Extraction with EtOAc, washing with brine, drying over Na2SO4 and removal of solvent yields the crude reaction product. Purification by FCC (EtOAc, then EtOAc/MeOH 4:1) affords the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.26 (t, J=8.8 Hz, 3H), 2.28 (s, 6H), 3.62 (s, 3H), 4.18 (q, J=8.8 Hz, 2H), 4.32 (s, 3H), 7.48 (d, J=9.9 Hz, 1H), 7.52 (d, J=9.9 Hz, 1H), 7.73 (d, J=9.9 Hz, 1H), 7.80-7.84 (m, 2H). ES+−MS: 306.3, 308.2. [M+H]+.

reactant | Dimethylamine | 23.20 mmol, 5.6 M, 4.2 ml | CNC | C2H7N
reactant | (2-Chloro-7-formyl-naphthalen-1-yl)-acetic acid ethyl ester | 15.46 mmol, 4.28 g | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)C=O)Cl)=O | C15H13ClO3
reactant | sodium cyanoborohydride | 18.56 mmol, 1.16 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 77.33 mmol, 4.4 ml | C(C)(=O)O | C2H4O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
product | (2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)CN(C)C)Cl)=O | C17H20ClNO2
